*****************************************************************
* NXP PSMN3R9-60XS
*
* Polarity N-Channel
* Ratings 60V/3.900000E-003OHMS/100A
*
* Date Created Thu Jun 28 05:55:50 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R9-60XS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.20225887222398e-09
RLS2 SOURCE 8 8.04815435829727
RLS1 8 7 0.000267481695870964

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00228638384498536 TC=0.00534874047188795,1.70821380416366E-05
RBD 9 4 0.000917555609880282 TC=0.00534874047188795,1.70821380416366E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.77078667606975e-09
RG 1 2 0.683113761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	5204.82
+ -10	5199.85
+ -8	5191.63
+ -6	5173.04
+ -5	5140.46
+ -4	5040.11
+ -3	5101.99
+ -2	4320.92
+ -1	3429.62
+ -0.5	2836.29
+ -0.2	2413.2
+ -0.1	2401.9
+ 0	2083.731
+ 0.1	1595.8548
+ 0.2	1593.6892
+ 0.5	1305.6932
+ 1	1107.5364
+ 2	887.0834
+ 3	778.38432
+ 4	715.5798
+ 5	674.21364
+ 6	644.78892
+ 8	603.84312
+ 10	574.193
+ 12	550.1748
+ 15	520.52064
+ 16	511.48968
+ 20	482.56976
+ 25	455.18004
+ 30	435.40544
+ 50	396.31316



.MODEL MINT NMOS(Vto=4.20243693904213 Kp=4.177839e+002 Nfs=920000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.98487027144118e-12
+ N=1 M=0.64 VJ=0.5 Fc=0.5 Cjo=3.0702728e-09 Tt=3.89494e-08)

.ENDS

