*****************************************************************
* NXP PSMN5R0-100XS
*
* Polarity N-Channel
* Ratings 100V/4.900000E-003OHMS/100A
*
* Date Created Fri Jun 8 05:43:20 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R0-100XS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00035
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507775381211
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961491241034
RLS1 8 7 0.000694987797247309

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00233368536328798 TC=0.0148700702193946,2.49532193456298E-05
RBD 9 4 0.000432208914177534 TC=0.0148700702193946,2.49532193456298E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 9.06768818052706e-09
RG 1 2 0.897840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	5246
+ -0.5	4365
+ -0.2	3729
+ -0.1	3512
+ 0	3313
+ 0.1	3032
+ 0.2	2819
+ 0.5	2436
+ 1	2069
+ 2	1530
+ 5	1011
+ 10	776.5
+ 12	716.5
+ 20	571.6
+ 25	517.5
+ 50	380



.MODEL MINT NMOS(Vto=4.00 Kp=5.00e+002 Nfs=890000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.10e-12
+ N=1 M=0.57 VJ=0.55 Fc=0.5 Cjo=3.642e-09 Tt=7.5e-08)

.ENDS

