*****************************************************************
* NXP PSMN5R6-100XS
*
* Polarity N-Channel
* Ratings 100V/5.600000E-003OHMS/100A
*
* Date Created Mon Nov 07 00:35:05 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R6-100XS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 3.61050716016531e-09
RLS2 SOURCE 8 9.07419421608695
RLS1 8 7 0.00110905915558479

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00255328357446201 TC=0.0088704763515768,5.43395578371564E-05
RBD 9 4 0.00015 TC=0.0088704763515768,5.43395578371564E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 7.731e-09
RG 1 2 0.961362342928517

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	6110
+ -1	4876
+ -0.5	4092
+ -0.2	3540
+ -0.1	3326
+ 0	3130.5
+ 0.1	2809
+ 0.2	2562
+ 0.5	2169
+ 1	1809
+ 2	1344
+ 5	909
+ 10	685
+ 12	631
+ 20	503
+ 25	456
+ 30	420
+ 50	334
+ 70	248
+ 90	162
+ 100	119


.MODEL MINT NMOS(Vto=3.713 Kp=5.3e+002 Nfs=590000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=7.8e-12
+ N=1 M=0.66 VJ=0.99 Fc=0.5 Cjo=2.58e-09 Tt=6.7e-08)

.ENDS

