*****************************************************************
* NXP PSMN9R5-100XS
*
* Polarity N-Channel
* Ratings 100V/9.600000E-003OHMS/89A
*
* Date Created Mon Nov 07 04:25:32 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R5-100XS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 4.07259292230935e-09
RLS2 SOURCE 8 10.2355424046311
RLS1 8 7 0.00120087098670174

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00611409505486368 TC=0.00705662069284066,4.30839547468612E-05
RBD 9 4 0.0001 TC=0.00705662069284066,4.30839547468612E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 4.269e-09
RG 1 2 0.691362342928517

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	2870
+ -1	2383
+ -0.5	1977
+ -0.2	1673
+ -0.1	1576
+ 0	1479.5
+ 0.1	1343
+ 0.2	1253
+ 0.5	1083
+ 1	922
+ 2	676
+ 5	446
+ 10	354
+ 20	270
+ 25	245
+ 30	227
+ 50	183
+ 70	139
+ 90	95
+ 100	73


.MODEL MINT NMOS(Vto=3.85 Kp=2.8e+002 Nfs=830000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-007 Rs=1E-6 Is=3.0e-12
+ N=1 M=0.59 VJ=0.58 Fc=0.5 Cjo=1.618e-09 Tt=6.15e-08)

.ENDS

