*****************************************************************
* NXP PSMN1R5-30YL
*
* Polarity N-Channel
* Ratings 30V/1.500000E-003OHMS/100A
*
* Date Created Mon Nov 07 05:48:04 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R5-30YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 300000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000530036218108673 TC=0.00793772060231653,8.71766284304574E-06
RBD 9 4 0.000364831186450895 TC=0.00793772060231653,8.71766284304574E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1600000000
CGS 2 6 4.659e-09
RG 1 2 0.746633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ 0	2300
+ 0.1	1225
+ 0.2	1146
+ 0.5	985
+ 1	861
+ 2	725
+ 5	570
+ 10	469
+ 20	386
+ 25	367
+ 30	348



.MODEL MINT NMOS(Vto=2.1375 Kp=4.0e+002 Nfs=370000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=4.75892817509761e-12
+ N=1 M=0.54 VJ=0.5 Fc=0.5 Cjo=3.50174e-09 Tt=4.5e-08)

.ENDS

